US04551529
Preparation of Guanine-N 7-oxide Hydrobromide
2-Amino-1,9-dihydro-6H-purin-6-one-7-oxide (50 mg, 0.29 mmol) was heated over a steam bath in 5 ml of 1.0M aqueous hydrobromic acid until it dissolved. The solution was filtered and cooled to room temperature for one hour and then allowed to stand at 5° C. overnight whereupon 33 mg of the hydrobromide salt of 2-amino-1,9-dihydro-6H-purin-6-one-7-oxide precipitated as white needles, mp >250° C.

reactant | 2-Amino-1,9-dihydro-6H-purin-6-one-7-oxide | 0.29 mmol, 50 mg | NC=1NC(C=2[N+](=CNC2N1)[O-])=O | C5H5N5O2
reactant | hydrobromic acid | 1.0M, 5 ml | Br | BrH
product | Guanine-N 7-oxide Hydrobromide | Br.N1=C(N)N=C2N=C[N+](=C2C1=O)[O-] | InChI=1S/C5H3N5O2.BrH/c6-5-8-3-2(4(11)9-5)10(12)1-7-3;/h1H,(H2,6,9,11);1H
